Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
Cardiac Catheterization ___ placement

 
History of Present Illness:
___ year old male, with h/o HTN, presents with dyspnea on 
exertion which began one week ago. Patient experienced dyspnea 
and dizziness ___ minutes while in the shower, ___ minutes 
following working out in the gym. He had recently started a new 
exercise regimen. Patient also noticed new onset dyspnea while 
climbing 2 flts of stairs at work. Endorses extreme fatigue 
while exercising, and an episode of L arm tingling, hand 
coolness, and occasional espisodes of mild chest pressure, not 
associated with exertion, and fleeting L-sided chest "twinges" 
which he has had for years. He also has had ___ episodes of 
palpitations over the past ___ years, which have lasted approx 2 
days and are associated with drinking wine and coffee, and large 
meals. He sought medical care for these episodes and was 
reassured they were benign. 

Patient went to his PCP yesterday, and was found to have new Q 
waves/nonspecific changes on EKG (compared to ___ EKG) and was 
sent to CHA. Trop at CHA were neg x1. CTA at CHA showed 4.2 cm 
dilated proximal aorta, and given family h/o fatal dissection at 
age ___, Pt was transferred here for further evaluation. 

In the ED, Pt was seen by Thoracic Surgery who felt that the 
pain was not due to the aneurysm. He was asymptomatic. He was 
placed into obs for a stress test, which showed ___epressions inferolaterally and >___lev in avR and V1.
 
Labs were notable for CBC: Hct 38.9 Chem 7: K 3.1 Cr 0.8; INR 
1.0; Trop 0.01 x2 
 
In the ED, initial vitals were Temp: 97.9 HR: 65 BP: 136/85 
Resp: 18 O(2)Sat: 96
 

On arrival to the floor, Patient is has no complaints, other 
than occasional fleeting (lasting seconds) "twinges", in 
different areas of his chest, which he has had for years . 
Denies chest pressure, pain, palpitations, dyspnea, or other 
symptoms.
 
Review of sytems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough,  Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No dysuria. Denies arthralgias 
or myalgias. Ten point review of systems is otherwise negative.  


 
Past Medical History:
HTN
 
Social History:
___
Family History:
Father w/fatal aortic dissection in ___. Mother with rheumatic 
fever w/valvular disease, died of CHF at ___. 

half brother with recent CABG
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 97.6  138/96  63  18  97%RA
General: NAD, comfortable, pleasant
HEENT: NCAT, PERRL, EOMI
Neck: supple, no JVD
CV: regular rhythm, no m/r/g
Lungs: CTAB, no w/r/r
Abdomen: soft, NT/ND, BS+
Ext: WWP, no c/c/e, 2+ distal pulses bilaterally
Neuro: moving all extremities grossly 
 
DISCHARGE PHYSICAL EXAM:
VS: 97.9 140/96 70 20 99RA 
GENERAL: NAD, alert, interactive
HEENT: NC/AT, sclerae anicteric
LUNGS: CTAB, otherwise no w/r/r
HEART: RRR, no m/r/g
ABDOMEN: NT, ND
EXTREMITIES: WWP, no c/c/e
NEURO: awake, A&Ox3

 
Pertinent Results:
ADMISSION LABS:
___ 07:10PM   GLUCOSE-103* UREA N-14 CREAT-0.8 SODIUM-141 
POTASSIUM-3.3 CHLORIDE-102 TOTAL CO2-29 ANION GAP-13
___ 07:10PM   estGFR-Using this
___ 07:10PM   cTropnT-<0.01
___ 07:10PM   WBC-7.2 RBC-4.63 HGB-13.8* HCT-38.9* MCV-84 
MCH-29.8 MCHC-35.4* RDW-12.8
___ 07:10PM   NEUTS-53.6 ___ MONOS-6.8 EOS-2.6 
BASOS-0.8
___ 07:10PM   PLT COUNT-165
___ 07:10PM   ___ PTT-25.7 ___

TROPONINS:
___ 07:10PM BLOOD cTropnT-<0.01
___ 01:15AM BLOOD cTropnT-<0.01
___ 08:00AM BLOOD CK-MB-2 cTropnT-<0.01
___ 06:40AM BLOOD CK-MB-2 cTropnT-<0.01
___ 04:00PM BLOOD CK-MB-2 cTropnT-<0.01
___ 06:00PM BLOOD cTropnT-<0.01

INTERIM LABS:
___ 06:40AM BLOOD Triglyc-131 HDL-40 CHOL/HD-5.8 
LDLcalc-164*

DISCHARGE LABS:
___ 06:25AM BLOOD WBC-7.0 RBC-4.33* Hgb-12.5* Hct-36.7* 
MCV-85 MCH-28.8 MCHC-34.0 RDW-12.6 Plt ___
___ 06:25AM BLOOD Plt ___
___ 06:25AM BLOOD Glucose-90 UreaN-13 Creat-0.8 Na-143 
K-4.0 Cl-108 HCO3-27 AnGap-12
___ 06:25AM BLOOD Mg-1.9

IMAGING/STUDIES

___ Cardiac Cath
Findings
ESTIMATED blood loss: 3 cc
Hemodynamics (see above):
Coronary angiography:  right dominant
LMCA: 
LAD:  mildly calcified mid LAD 70% at first diagonal origin, 80%
mildly calcified mid diagonal in branch with moderate diffuse
disease up to 50%
LCX:  40% proximal, 80% moderately calcified OM1, 50% OM2
RCA:  40% proximal, 40% distal, 40% PDA

Interventional details
Change for XB4.0 guide.  Pressure wire of LAD positive with FFR
0.74.Drug coated ___ of diagonal with 2.25 by 12 Promus 
Premier
postdilated with 2.25 balloon with good result.  Drug coated
___ of LAD with 3.0 by 16 Promus Premier postdilated to 3.25 
mm
with good result.  Angiomax used.  Angioseal used.

Assessment & Recommendations
 1. ASA 81 mg daily indefinitely and Ticagrelor 90 mg twice 
daily
for one year.
 2. OK for discharge later today.
 3. Staged PCI of OM1 in few weeks.

___ Exercise Stress Test
EXERCISE RESULTS 

 
  
RESTING DATA 
EKG:  SINUS, NSSTTWS   
HEART RATE:  63 BLOOD PRESSURE:  130/88 
  
PROTOCOL ___ - TREADMILL 
STAGE TIME SPEED ELEVATION HEART BLOOD RPP 
  (MIN) (MPH) (%) RATE PRESSURE   
1 ___ 1.7 10 97 144/80 ___ 
2 ___ 2.5 12 118 160/80 ___ 3.4 14 131 178/78 ___ 
  
TOTAL EXERCISE TIME:  7.7 % MAX HRT RATE ACHIEVED:  76 
 
SYMPTOMS: NONE   
ST DEPRESSION: ISCHEMIC PEAK INTENSITY: 1.5-2 MM 
HORIZONTAL/DOWNSLOPING STD   ___ MM STE 
  TIME HR BP RPP 
ONSET: 4.75 EX ___ 
RESOLUTION: 7 REC 68 142/88 9656 
 
  
INTERPRETATION: This ___ year old man with recent diagnosis of a 
non-disecting ascending aorta measuring 4.2 cm was referred to 
the lab 
from the ER following negative serial markers for ischemia to 
evaluate 
atypical chest discomfort. The patient exercised for 7.7 minutes 
of a 
___ protocol and was stopped for ST segment changes and 
systolic BP 
approaching 180 mmHg in setting of aortic aneurysm. The 
estimated peak 
MET capacity was 9 which represents an average functional 
capacity for 
his age. No arm, neck, back or chest discomfort was reported by 
the 
patient throughout the study. At peak exercise, there was 1.5-2 
mm 
horizontal/downsloping STD in the inferolateral leads and 1 mm 
and 2 mm 
STE in V1 and avR, respectively. The STE resolved within 4 
minutes of 
recovery and the STD by minute 7 of recovery with rest. The 
rhythm was 
sinus with one apb and vpb with one atrial couplet. Appropriate 
hemodynamic response to exercise and recovery. 
IMPRESSION: Ischemic EKG changes in the absence of angina. 
Normal 
hemodynamic response to exercise. 
 

 
Brief Hospital Course:
___ year old male, with h/o HTN, presents with dyspnea on 
exertion which began one week ago, transferred from CHA after 
CTA showed 4.2 cm dilated aorta, and found to have ETT 
concerning for unstable angina.

# CAD: Patient presented with new onset dyspnea, and was 
evaluated for cardiac etiology. Patient had an abnormal ETT with 
___epressions inferolaterally and >___lev avR, V1. 
Troponins were negative. Cardiac catheterization showed mid-LAD, 
and diagonal with 70 and 80% occlusion, respectively. 
Drug-eluding stents were placed. Patient will have a followup 
PCI for an OM1 occlusion in approximately 2 weeks. Patient was 
started on Ticagrelor, Simvastatin, ASA, Metoprolol and he will 
continue his home lisinopril.  

# Vasovagal Events: Patient had two vasovagal events, 
characterized by diaphoresis, mild dyspnea, and lightheadedness. 
The first while having an IV placed in the ED and the second 
after having his cardiac catheterization. These two episodes 
resolved spontaneously. EKG done during the second event showed 
no significant changes and evaluation for cardiac etiology was 
negative.  

# HTN:Patietn was continued on his home lisinopril. He was 
started on Metoprolol 25mg qdaily. His home HCTZ was 
discontinued.
 
# Proximal aorta dilation: CTA at OSH shows 4.2 cm proximal 
aortic dilation. 
- Seen by Thoracic Surg: no intervention at this time

# Anemia: Hct 38.9. Possibly secondary to vegetarian diet. 
Consider further evaluation as an outpatient, including iron 
studies.
 

TRANSITIONAL ISSUES:
#Follow up Cardiology
#Follow up PCP
___ further work-up for anemia
#Proximal aortic dilation of 4.2 cm: no intervention at this 
time
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 25 mg PO QAM 
2. Lisinopril 5 mg PO QAM 

 
Discharge Medications:
1. Lisinopril 5 mg PO QAM 
RX *lisinopril 5 mg 1 tablet(s) by mouth q a.m. Disp #*30 Tablet 
Refills:*0
2. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet,chewable(s) by mouth qdaily Disp #*30 
Tablet Refills:*0
3. Atorvastatin 80 mg PO DAILY 
RX *atorvastatin 80 mg 1 tablet(s) by mouth qdaily Disp #*30 
Tablet Refills:*0
4. TiCAGRELOR 90 mg PO BID 
Do NOT stop taking this medication without first seeing your 
Cardiologist. 
RX *ticagrelor [Brilinta] 90 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0
5. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet extended release 24 
hr(s) by mouth qdaily Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Coronary Artery Disease ___ placement x2

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with shortness of breath. You 
had a cardiac stress test and cardiac catheterization  and were 
found to have coronary artery disease. You had two drug-eluding 
stents placed. You will  need to take a new medication, 
ticagrelor (which you will need to take for one year), aspirin, 
as well as your blood pressure medications. Your 
hydrochlorathiazide was discontinued, a new medication, 
metoprolol, was started, and should continue to take your home 
lisinopril. You also had two "vasovagal" events during your 
admission, which resolved. Please take your medications as 
prescribed and follow up at the medical appointments listed 
below.
 
Followup Instructions:
___